US07585885B2
N,N-Dipropyl-isophthalamic acid
Dissolve isophthalic acid monomethyl ester (2.25 g, 12.5 mmol), 1-(3-dimethylamino-propyl)-3-ethyl-carbodiimide hydrochloride (2.88 g, 15 mmol), 1-hydroxybenzotriazole (2.02 g, 15 mmol) and triethylamine (3.03 g, 30 mmol) in THF (50 mL) and DMF (20 mL). Stir at room temperature 15 min and add dipropylamine (1.52 g, 15 mmol). Stir at room temperature 16 h and dilute with ethyl acetate. Wash with 10% aqueous potassium carbonate, 0.1 N citric acid, 1 N lithium chloride and saturated aqueous sodium chloride and concentrate. Dissolve the residue in THF (60 mL), methanol (18 mL) and water (9 mL). Add lithium hydroxide (2.1 g, 50 mmol), stir at room temperature 16 h and concentrate. Partition the residue between diethyl ether and 1 N HCl. Dry (magnesium sulfate) and concentrate to give the title compound as a solid.

reactant | isophthalic acid monomethyl ester | 12.5 mmol, 2.25 g | COC(C1=CC(C(=O)O)=CC=C1)=O | C9H8O4
reactant | 1-(3-dimethylamino-propyl)-3-ethyl-carbodiimide hydrochloride | 15 mmol, 2.88 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 15 mmol, 2.02 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 30 mmol, 3.03 g | C(C)N(CC)CC | C6H15N
reactant | dipropylamine | 15 mmol, 1.52 g | C(CC)NCCC | C6H15N
reactant | lithium hydroxide | 50 mmol, 2.1 g | [OH-].[Li+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-Dipropyl-isophthalamic acid | C(CC)N(C(C=1C=C(C(=O)O)C=CC1)=O)CCC | C14H19NO3
